US04227011
1-Tri-n-butylstannyl-4-chloromethyl-4-trimethylsiloxy-trans-1-octene
A mixture of 9.27 g. of 4-chloromethyl-4-trimethylsilyloxy-1-octyne, 40 mg. of azoisobutyronitrile, and 10.0 ml. of tri-n-butyltin hydride is heated and stirred at 125° C. for 1.5 hours, then vacuum distilled through a short path to give, after a forerun, 19.5 g. of product as a colorless liquid at b.p. 140-160° C./0.1-0.2 mm.; PMR δ 5.98 (m, olefin), 3.40 (s, CH2Cl), 2.40 (m, C=C--CH2), 0.14 (s, OTMS).

reactant | 4-chloromethyl-4-trimethylsilyloxy-1-octyne | ClCC(CC#C)(CCCC)O[Si](C)(C)C | C12H23ClOSi
reactant | tri-n-butyltin hydride | C(CCC)[SnH](CCCC)CCCC
product | 1-Tri-n-butylstannyl-4-chloromethyl-4-trimethylsiloxy-trans-1-octene | C(CCC)[Sn](\C=C\CC(CCCC)(O[Si](C)(C)C)CCl)(CCCC)CCCC | InChI=1S/C12H24ClOSi.3C4H9.Sn/c1-6-8-10-12(11-13,9-7-2)14-15(3,4)5;3*1-3-4-2;/h2,7H,6,8-11H2,1,3-5H3;3*1,3-4H2,2H3;
